US04593102
4-[(2-Chlorophenyl)thio]piperidine monohydrochloride
A mixture of 88.76 g (0.23 mole) of 4-[(2-chlorophenyl)thio]-1-[(4-methylphenyl)sulfonyl]piperidine, 47.0 g (0.50 mole) of phenol and 200 ml of 48% hydrobromic acid was refluxed for 1.5 hr. The reaction mixture was cooled to room temperature and diluted with ice water. The mixture was made alkaline with 50% sodium hydroxide and extracted with diethyl ether. The ether phase was extracted with 1N sulfuric acid. The acidic layer was made alkaline and extracted with methylene chloride. The methylene chloride layer was dried over sodium sulfate, filtered and evaporated to give an oil, the free base of the title compound. The free base was converted to 4.30 g (36.5%) of a white crystalline hydrochloride salt, m.p. 202°-210° C.

reactant | 4-[(2-chlorophenyl)thio]-1-[(4-methylphenyl)sulfonyl]piperidine | 0.23 mole, 88.76 g | ClC1=C(C=CC=C1)SC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C18H20ClNO2S2
reactant | phenol | 0.50 mole, 47.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrobromic acid | 200 ml | Br | BrH
product | 4-[(2-Chlorophenyl)thio]piperidine monohydrochloride | Cl.ClC1=C(C=CC=C1)SC1CCNCC1 | InChI=1S/C11H14ClNS.ClH/c12-10-3-1-2-4-11(10)14-9-5-7-13-8-6-9;/h1-4,9,13H,5-8H2;1H
